US07855285B2
Freshly activated guanine (0.45 g, 3 mmol) and (NH4)2SO4 (60 mg) were stirred in HMDS (50 mL) under reflux for 24 h to give a clear solution. Volatiles were evaporated in vacuo, and the residue was dissolved in dried CH3CN (50 mL). Trityl chloride (3.5 g, 12.6 mmol) was added, and the solution was stirred under reflux for 48 h. Volatiles were evaporated in vacuo, and the residue was dissolved in CH2Cl2 (10 mL). NH3/H2O (28-30%, 30 mL) was added, and precipitation was observed immediately. The mixture was stirred at ambient temperature overnight. Volatiles were evaporated in vacuo, and the residue was washed (H2O, CH2Cl2) to give 2-N,9-bistritylguanine as a solid (1.37 g, 72%), which was further purified by dissolving in MeOH/CH2Cl2 (1:15) and filtering: 1H NMR (500 MHz, DMSO-d6) δ 10.75 (s, 1H), 7.35 (s, 1H), 7.08-7.19 (m, 19H), 6.87 (d, J=7.4 Hz, 6H), 6.81 (d, J=7.3 Hz, 6H); 13C NMR (125 MHz, DMSO-d6) δ 157.3, 151.8, 151.0, 145.3, 142.4, 139.6, 129.6, 128.8, 128.5, 128.3, 127.6, 126.9, 120.3, 75.4, 71.1; HRMS m/z 635.2675 (M+[C43H33N5O]=635.2685).

reactant | guanine | 3 mmol, 0.45 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | Trityl chloride | 12.6 mmol, 3.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | HMDS | 50 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
product | 2-N,9-bistritylguanine | 1.37 g, 72% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1NC(C=2N=CN(C2N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H33N5O
